US05236952
A solution of 38 g of fuming nitric acid (96%) in 50 ml of glacial acetic acid is added dropwise while stirring and within 30 minutes at 20°-25° to a solution of 112.5 g of 2-bromo-4'-hydroxy-3'-methoxyacetophenone in 560 ml of glacial acetic acid. Yellow-brown crystals thereby separate. After 90 minutes the reaction mixture is poured on to 300 g of ice. The crystals are filtered under suction, washed with 1000 ml of water and dissolved in 1000 ml of methylene chloride. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and the filtrate is evaporated at 50° in a water-jet vacuum until crystallization begins. The crystallizate, cooled to room temperature, is removed by filtration under suction and washed with a small amount of methylene chloride. There is obtained 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone of m.p. 147°-149°.

reactant | nitric acid | 38 g | [N+](=O)(O)[O-] | HNO3
reactant | 2-bromo-4'-hydroxy-3'-methoxyacetophenone | 112.5 g | BrCC(=O)C1=CC(=C(C=C1)O)OC | C9H9BrO3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 560 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-4'-hydroxy-3'-methoxy-5'-nitroacetophenone | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C9H8BrNO5
